US06780855B2
A solution of 690 mg of 11β-fluor-7α-(6-iodohexyl)-estra-1,3,5(10)-triene-3,17-diol in 15 ml of 1-methyl-2-pyrrolidinone is stirred with 810 mg of methyl-(7,7,8,8,8-pentafluor-octyl)-amine for 3 hours at a bath temperature of 80° C. For working-up, the batch is added to saturated sodium chloride solution, extracted with ether, dried on sodium sulfate, concentrated by evaporation in a vacuum and chromatographed on silica gel with dichloromethane/methanol/ammonia (25%). 576 mg of 11β-fluoro-7α-{6-[methyl-(7,7,8,8,8-pentafluor-octyl)-amino]-hexyl}-estra-1,3,5(10)-triene-3,17β-diol is obtained as a foam, [α]D=+42° (c=0.5 in CHCl3).

reactant | 11β-fluor-7α-(6-iodohexyl)-estra-1,3,5(10)-triene-3,17-diol | 690 mg | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CCC([C@@]2(C)C1)O)CCCCCCI)O | C24H34FIO2
reactant | methyl-(7,7,8,8,8-pentafluor-octyl)-amine | 810 mg | CNCCCCCCC(C(F)(F)F)(F)F | C9H16F5N
reactant | sodium chloride | [Cl-].[Na+]
solvent | 1-methyl-2-pyrrolidinone | 15 ml | CN1C(CCC1)=O | C5H9NO
product | 11β-fluoro-7α-{6-[methyl-(7,7,8,8,8-pentafluor-octyl)-amino]-hexyl}-estra-1,3,5(10)-triene-3,17β-diol | 576 mg | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CC[C@@H]([C@@]2(C)C1)O)CCCCCCN(CCCCCCC(C(F)(F)F)(F)F)C)O | C33H49F6NO2
